US07524846B2
1-[2-piperazin-1-yl-1-(4-prop-1-ynylphenyl)ethyl]cyclohexanol dihydrochloride
In an analogous manner to Example 135, step 4, 1-[2-piperazin-1-yl-1-(4-prop-1-ylphenyl)ethyl]cyclohexanol dihydrochloride was prepared from tert-butyl 4-[2-(1-hydroxycyclohexyl)-2-(4-prop-1-ynylphenyl)ethyl]piperazine-1-carboxylate. MS (ESI) m/z 327 ([M+H]+); HRMS: calcd for C21H30N2O.2.00 HCl, 398.1892; found (ESI), 327.2425.

reactant | 1-[2-piperazin-1-yl-1-(4-prop-1-ylphenyl)ethyl]cyclohexanol dihydrochloride | Cl.Cl.N1(CCNCC1)CC(C1=CC=C(C=C1)CCC)C1(CCCCC1)O
reactant | tert-butyl 4-[2-(1-hydroxycyclohexyl)-2-(4-prop-1-ynylphenyl)ethyl]piperazine-1-carboxylate | OC1(CCCCC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C#CC | C26H38N2O3
reactant | HCl | Cl | ClH
product | 1-[2-piperazin-1-yl-1-(4-prop-1-ynylphenyl)ethyl]cyclohexanol dihydrochloride | Cl.Cl.N1(CCNCC1)CC(C1=CC=C(C=C1)C#CC)C1(CCCCC1)O | InChI=1S/C21H30N2O.2ClH/c1-2-6-18-7-9-19(10-8-18)20(17-23-15-13-22-14-16-23)21(24)11-4-3-5-12-21;;/h7-10,20,22,24H,3-5,11-17H2,1H3;2*1H
